US06271225B1
In the same manner as in Starting Material Synthesis Example 4 and using ethyl 2-amino-6-methoxybenzo[b]thiophene-3-carboxylate, 2,4-difluoronitrobenzene and dimethyl sulfoxide, ethyl 2-(5-fluoro-2-nitroanilino)-6-methoxybenzo[b]thiophene-3-carboxylate is obtained.

reactant | ethyl 2-amino-6-methoxybenzo[b]thiophene-3-carboxylate | NC1=C(C2=C(S1)C=C(C=C2)OC)C(=O)OCC | C12H13NO3S
reactant | 2,4-difluoronitrobenzene | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | ethyl 2-(5-fluoro-2-nitroanilino)-6-methoxybenzo[b]thiophene-3-carboxylate | FC=1C=CC(=C(NC2=C(C3=C(S2)C=C(C=C3)OC)C(=O)OCC)C1)[N+](=O)[O-] | C18H15FN2O5S
